US04010177
In the manner given in Example 1, a solution of 1,3-dihydro-7-trifluoromethyl-5-(o-chlorophenyl)-2H-1,4-benzodiazepine-2-thione and hydroxyacetic acid hydrazide in n-butyl alcohol is refluxed to give 8-trifluoromethyl-1-(hydroxymethyl)-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine. Preparation 5 1-(Hydroxymethyl)-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine

reactant | 1,3-dihydro-7-trifluoromethyl-5-(o-chlorophenyl)-2H-1,4-benzodiazepine-2-thione | FC(C=1C=CC2=C(C(=NCC(N2)=S)C2=C(C=CC=C2)Cl)C1)(F)F | C16H10ClF3N2S
reactant | hydroxyacetic acid hydrazide | OCC(=O)NN | C2H6N2O2
solvent | n-butyl alcohol | C(CCC)O | C4H10O
product | 8-trifluoromethyl-1-(hydroxymethyl)-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | FC(C=1C=CC2=C(C(=NCC=3N2C(=NN3)CO)C3=C(C=CC=C3)Cl)C1)(F)F | C18H12ClF3N4O
